US05824690
Synthesis of (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-(pyridin-3-yl)-piperidine-4-carboxylic acid 4-methylpiperazine-amide
Prepare by the method of Example 88.6 using (S)-2-[1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate and 4-(pyridin-3-yl)-piperidine-4-carboxylic acid 4-methylpiperazine-amide to give, after chromatography on silica gel eluting sequentially with ethyl acetate, 1% methanol/dichloromethane, 3% methanol/dichloromethane, 5% methanol/dichloromethane, 7% methanol/dichloromethane, and then 9% methanol/dichloromethane, the title compound: Rf =0.29 (silica gel, methanol/dichloromethane/concentrated ammonia 10/90/0.5).

reactant | (S)-2-[1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | COC=1C=C(C(=O)N2C[C@@](CC2)(C2=CC(=C(C=C2)Cl)Cl)CCCS(=O)(=O)[O-])C=C(C1OC)OC
reactant | 4-(pyridin-3-yl)-piperidine-4-carboxylic acid 4-methylpiperazine-amide | CN1CCN(CC1)C(=O)N.N1=CC(=CC=C1)C1(CCNCC1)C(=O)O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol dichloromethane | CO.ClCCl
product | (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-(pyridin-3-yl)-piperidine-4-carboxylic acid 4-methylpiperazine-amide | CN1CCN(CC1)C(=O)N.ClC=1C=C(C=CC1Cl)[C@@]1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)O)C=1C=NC=CC1 | InChI=1S/C33H37Cl2N3O6.C6H13N3O/c1-42-27-17-22(18-28(43-2)29(27)44-3)30(39)38-16-9-32(21-38,23-6-7-25(34)26(35)19-23)8-13-37-14-10-33(11-15-37,31(40)41)24-5-4-12-36-20-24;1-8-2-4-9(5-3-8)6(7)10/h4-7,12,17-20H,8-11,13-16,21H2,1-3H3,(H,40,41);2-5H2,1H3,(H2,7,10)/t32-;/m0./s1
